US09352049B2
To (S)-4-amino-5-tert-butoxy-5-oxopentanoic acid (1.50 g, 7.38 mmol) in 1,4-dioxane (40 mL) chilled to 0° C., sodium carbonate (196 mg, 1.85 mmol) in water (20 mL) was added followed by Fmoc chloride (2.11 g, 8.16 mmol). The reaction was gradually warmed to ambient temperature and stirred at ambient temperature for 16 hours. After this time, the reaction was made slightly acidic (pH=6) with 2 M hydrochloric acid and the pH adjusted to ˜3 with 1 M citric acid (˜80 mL). The resulting mixture was extracted with ethyl acetate (3×100 mL). The combined organics were dried over sodium sulfate, filtered, and the filtrate concentrated under reduced pressure. The residue obtained was purified by silica gel column chromatography eluting with hexanes to a 3:2 ethyl acetate/hexane mixture to afford (S)-4-(((9H-fluoren-9-yl)methoxy)carbonylamino)-5-tert-butoxy-5-oxopentanoic acid (3.10 g, 99%) as a white solid: 1H NMR (300 MHz, CDCl3) δ carboxylic acid peak (1H) not observed as it was too broadened out, 7.76 (d, J=7.5 Hz, 2H), 7.61-7.58 (m, 2H), 7.42-7.26 (m, 4H), 5.45 (d, J=7.8 Hz, 1H), 4.48-4.19 (m, 4H), 2.51-2.34 (m, 2H), 2.28-2.14 (m, 1H), 1.99-1.88 (m, 1H), 1.47 (s, 9H); ESI MS m/z=448 [M+Na]+.

reactant | (S)-4-amino-5-tert-butoxy-5-oxopentanoic acid | 7.38 mmol, 1.50 g | N[C@@H](CCC(=O)O)C(=O)OC(C)(C)C | C9H17NO4
reactant | sodium carbonate | 1.85 mmol, 196 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | Fmoc chloride | 8.16 mmol, 2.11 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)Cl | C15H11ClO2
reactant | hydrochloric acid | 2 M | Cl | ClH
reactant | citric acid | 1 M, ˜80 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | 1,4-dioxane | 40 mL | O1CCOCC1 | C4H8O2
solvent | water | 20 mL | O | H2O
product | (S)-4-(((9H-fluoren-9-yl)methoxy)carbonylamino)-5-tert-butoxy-5-oxopentanoic acid | 3.10 g, 99% | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@@H](CCC(=O)O)C(=O)OC(C)(C)C | C24H27NO6
